US08283353B2
4′-{[2-methyl-5-oxo-7-propyl-4-(tetrahydro-2H-pyran-4-yl)-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
A mixture of ethyl 2-[(2′-cyanobiphenyl-4-yl)methyl]-3-oxohexanoate (0.96 g), 3-methyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazol-5-amine hydrochloride (0.3 g) and N,N-diethylaniline (10 mL) was stirred at 180° C. for 2 hr. The obtained reaction mixture was diluted with ethyl acetate, washed 3 times with 1 N hydrochloric acid and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.27 g, 42%).

reactant | ethyl 2-[(2′-cyanobiphenyl-4-yl)methyl]-3-oxohexanoate | 0.96 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC(C(=O)OCC)C(CCC)=O | C22H23NO3
reactant | 3-methyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazol-5-amine hydrochloride | 0.3 g | Cl.CC1=NNC(=C1)NC1CCOCC1
reactant | N,N-diethylaniline | 10 mL | C(C)N(C1=CC=CC=C1)CC | C10H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4′-{[2-methyl-5-oxo-7-propyl-4-(tetrahydro-2H-pyran-4-yl)-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.27 g, 42% | CC1=NN2C(N(C(C(=C2CCC)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N)=O)C2CCOCC2)=C1 | C29H30N4O2
